US05804586
Cyclopropanecarbonitrile (17.14 g) was added dropwise to a mixture of lithium diisopropylamide solution (2M in a mixture of heptane, tetrahydrofuran and ethylbenzene; 128 ml), 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (30 ml) and tetrahydrofuran (240 ml) stirring at -78° C. under nitrogen. Stirring was continued for 1 hour at this temperature then a solution of 1-chlorotetralin (48.4 g) in tetrahydrofuran (50 ml) was added slowly and after a further hour the solution was allowed to warm to ambient temperature, then was heated under gentle reflux for 2 hours. The solvent was removed in vacuo and the residue acidified with concentrated hydrochloric acid then extracted with ethyl acetate (4×100 ml). The combined extracts were dried over magnesium sulphate and the solvent removed in vacuo to leave a semi-solid which was filtered and washed with acetonitrile, then recrystallised from acetone to give 1-(1,2,3,4-tetrahydronaphth-1-yl)cyclopropanecarbonitrile (8.3 g), mp 91°-93° C.

reactant | Cyclopropanecarbonitrile | 17.14 g | C1(CC1)C#N | C4H5N
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethylbenzene | C(C)C1=CC=CC=C1 | C8H10
reactant | 1-chlorotetralin | 48.4 g | ClC1CCCC2=CC=CC=C12 | C10H11Cl
solvent | heptane | CCCCCCC | C7H16
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 30 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | 1-(1,2,3,4-tetrahydronaphth-1-yl)cyclopropanecarbonitrile | 8.3 g | C1(CCCC2=CC=CC=C12)C1(CC1)C#N | C14H15N
